US04950764
Synthesis Example 4-4: Synthesis of 5-t-butyl-4-chloromethyl-2-(4-n-hexadecylcarbamoyl-2-nitrophenyl)-4-isoxazolin-3-one
81.6 g of 5-t-butyl-4-chloromethyl-2-(4-carboxy-2-nitrophenyl)-4-isoxazolin-3-one and 480 ml of ethyl acetate were mixed with each other, then cooled to -15° C. To this suspension was dropwise added 32.6 ml of triethylamine. Then, 22.0 ml of ethyl chlorocarbonate was dropwise added thereto while keeping the temperature of the mixture at not higher than -10° C. After reacting under such conditions for 50 minutes, 49 g of hexadecylamine was added thereto. After reacting for 10 minutes at -10° C., the temperature of the reaction mixture was gradually raised to room temperature, and the mixture was left overnight. Then, 400 ml of water was added thereto, and the organic layer was separated and concentrated using an evaporator to dryness. The residue was crystallized from methanol.

reactant | 5-t-butyl-4-chloromethyl-2-(4-carboxy-2-nitrophenyl)-4-isoxazolin-3-one | 81.6 g | C(C)(C)(C)C1=C(C(N(O1)C1=C(C=C(C=C1)C(=O)O)[N+](=O)[O-])=O)CCl | C15H15ClN2O6
reactant | ethyl acetate | 480 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl chlorocarbonate | 22.0 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | hexadecylamine | 49 g | C(CCCCCCCCCCCCCCC)N | C16H35N
solvent | water | 400 ml | O | H2O
solvent | triethylamine | 32.6 ml | C(C)N(CC)CC | C6H15N
product | 5-t-butyl-4-chloromethyl-2-(4-n-hexadecylcarbamoyl-2-nitrophenyl)-4-isoxazolin-3-one | C(C)(C)(C)C1=C(C(N(O1)C1=C(C=C(C=C1)C(NCCCCCCCCCCCCCCCC)=O)[N+](=O)[O-])=O)CCl | C31H48ClN3O5
